US07777047B2
ethyl 1-(methoxymethyl)-4-methyl-7-nitro-1H-indole-2-carboxylate
A mixture of ethyl 4-methyl-7-nitro-1H-indole-2-carboxylate (7.0 g), 60% sodium hydride (1.35 g) and N,N-dimethylformamide (40 ml) was stirred at room temperature for 30 min. This solution was ice-cooled, and a solution of chloromethyl methyl ether (2.6 ml) in tetrahydrofuran (15 ml) was added dropwise. The mixture was stirred at 4° C. for 4 hr, and the reaction solution was diluted with ethyl acetate, washed with saturated brine, aqueous citric acid solution and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=5:95-1:5) to give the title compound (5.6 g, yield 68%) as pale-yellow needle crystals.

reactant | ethyl 4-methyl-7-nitro-1H-indole-2-carboxylate | 7.0 g | CC1=C2C=C(NC2=C(C=C1)[N+](=O)[O-])C(=O)OCC | C12H12N2O4
reactant | sodium hydride | 1.35 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | chloromethyl methyl ether | 2.6 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(methoxymethyl)-4-methyl-7-nitro-1H-indole-2-carboxylate | 5.6 g, yield 68% | COCN1C(=CC2=C(C=CC(=C12)[N+](=O)[O-])C)C(=O)OCC | C14H16N2O5
